US06989448B2
Step 2: The preparation of [S—(R*,R*)]-2-Amino-N-[2-(4-benzyloxy-phenyl)-1-tert-butylcarbamoyl-ethyl]-3-(1H-imidazol-4-yl)-propionamide
A solution of [S—(R*,R*)]-4-{2-[2-(4-benzyloxy-phenyl)-1-tert-butylcarbamoyl-ethylcarbamoyl]-2-tert-butoxycarbonylamino-ethyl}-imidazole-1-carboxylic acid tert-butyl ester (1.92 g, 2.87 mmol) in 70 mL dichloromethane was cooled to 3° C., then TFA (14 mL) was added. The resulting solution was warmed to 25° C. and stirred 2 hours. The mixture was concentrated at reduced pressure to a viscous amber oil which was dissolved in 100 mL ethyl acetate and washed twice with 100 mL saturated aqueous sodium bicarbonate solution and twice with 100 mL brine, dried over anhydrous sodium sulfate, and concentrated at reduced pressure affording 1.18 g (85%) of the title compound.

reactant | 4-{2-[2-(4-benzyloxy-phenyl)-1-tert-butylcarbamoyl-ethylcarbamoyl]-2-tert-butoxycarbonylamino-ethyl}-imidazole-1-carboxylic acid tert-butyl ester | 2.87 mmol, 1.92 g | C(C)(C)(C)OC(=O)N1C=NC(=C1)CC(NC(=O)OC(C)(C)C)C(NC(CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(NC(C)(C)C)=O)=O | C36H49N5O7
reactant | TFA | 14 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
product | 2-Amino-N-[2-(4-benzyloxy-phenyl)-1-tert-butylcarbamoyl-ethyl]-3-(1H-imidazol-4-yl)-propionamide | 1.18 g, 85% | NC(C(=O)NC(CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(NC(C)(C)C)=O)CC=1N=CNC1 | C26H33N5O3
